US08003677B2
N-Cyclopropylmethyl-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]nicotinamide
6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid (54 mg, 0.134 mmol) was reacted with C-cyclopropylmethylamine analogously to example 3d. Yield: 77%, M+H+: 457.26.

reactant | 6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid | 0.134 mmol, 54 mg | FC(C1=C(C(=O)N2CC3=C(C2)CN(C3)C3=NC=C(C(=O)O)C=C3)C=CC=C1)(F)F | C20H16F3N3O3
reactant | C-cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | N-Cyclopropylmethyl-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]nicotinamide | Yield: 77% | C1(CC1)CNC(C1=CN=C(C=C1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C24H23F3N4O2
